### PR TITLE
feat: `tiny` is antitone

### PR DESCRIPTION
**Pull request by plp127**
Prove that `tiny` is antitone, and that it is not anything else.

### CODE REVIEW

File: CombinatorialGames/Game/Special.lean [hunk 1]
```diff
@@ -149,6 +159,20 @@ theorem short_tiny_iff {x : IGame} : Short (⧾x) ↔ Short x := by
 
 instance (x : IGame) [Short x] : Short (⧾x) := by rwa [short_tiny_iff]
 
+theorem tiny_anti {x y : IGame} (hxy : x ≤ y) : ⧾y ≤ ⧾x := by
+  apply IGame.le_of_forall_moves_left_lf
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]:
```suggestion
theorem tiny_antitone : Antitone tiny := by
  intro x y hxy
  apply IGame.le_of_forall_moves_left_lf
```

File: CombinatorialGames/Game/Special.lean [hunk 2]
```diff
@@ -149,6 +159,20 @@ theorem short_tiny_iff {x : IGame} : Short (⧾x) ↔ Short x := by
...
+  · rw [leftMoves_tiny, Set.forall_mem_singleton]
+    exact left_lf (by simp)
+  · rw [rightMoves_tiny, Set.forall_mem_singleton, rightMoves_tiny, Set.exists_mem_singleton]
+    apply IGame.le_of_forall_moves_left_lf
+    · rw [leftMoves_ofSets, Set.forall_mem_singleton]
+      exact left_lf (by simp)
+    · rw [rightMoves_ofSets, Set.forall_mem_singleton, rightMoves_ofSets, Set.exists_mem_singleton]
+      exact IGame.neg_le_neg_iff.2 hxy
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:172]: This also works:
```suggestion
    · rwa [rightMoves_ofSets, Set.forall_mem_singleton, rightMoves_ofSets, Set.exists_mem_singleton,
        IGame.neg_le_neg_iff]
```

**Review by vihdzp — APPROVED** [review]
No idea how you found these counterexamples, but they're all quite nice to have!

File: CombinatorialGames/Game/Special.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Game/Special.lean:172]: I think what I have is fine too.

File: CombinatorialGames/Game/Special.lean [hunk 3]
```diff
@@ -149,6 +159,22 @@ theorem short_tiny_iff {x : IGame} : Short (⧾x) ↔ Short x := by
...
+
+theorem tiny_antitone : Antitone tiny := @tiny_anti
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]: Any reason for having both?

Comment (plp127) [reply CombinatorialGames/Game/Special.lean]: I guess not? Should I remove one?

Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean]: I'd prefer just the spelling with the bundled predicate.
